.SUBCKT OPAx188 1IN+ 1IN- VCC VEE 1OUT 2IN+ 2IN- 2OUT
.include OPAx188.LIB
XU1A 1IN+ 1IN- VCC VEE 1OUT OPAx188
XU1B 2IN+ 2IN- VCC VEE 2OUT OPAx188
.ends
